US05461036
To 12-bromo-1-dodecanol (5 g) dissolved in methylene chloride (70 ml) were added pyridinium chlorochromate (10.1 g) and Celite (11.0 g), and the mixture was stirred at room temperature for 12 hours. Then, the reaction mixture was filtered, concentrated and subjected to chromatography on a silica gel column with an eluent system of n-hexane-ethyl acetate (20:1 ) to give 12-bromo-1-dodecanal (3.72 g). To the product dissolved in methylene chloride (50 ml ) was added (carbomethoxymethylene)triphenylphosphorane (8.80 g), and the mixture was stirred. The reaction mixture was concentrated, and the residue thus obtained was subjected to chromatography on a silica gel column with an eluent system of n-hexane-ethyl acetate (20:1) to give the methyl ester of 14-bromo-2-tetradecenoic acid (4.14 g). The product was dissolved in methanol and stirred under hydrogen atmosphere in the presence of palladium/carbon (1.5 g) for 18 hours. The reaction mixture was filtered and concentrated to give the methyl ester of 14-bromotetradecanoic acid (3.35 g). 50% Aqueous ethanol (100 ml), in which potassium hydroxide (2.90 g) had been dissolved, was added to the methyl ester, and the mixture was stirred at 60° C. for 1 hour. Ethanol in the reaction mixture was removed by distillation, and the residue was acidified to a weak acidic range of pH by adding citric acid and extracted with ethyl acetate. The organic layer was dried and concentrated to give 14-bromotetradecanoic acid (3.55 g). After the product was dissolved in N,N-dimethylformamide (DMF, 50 ml), para-nitrophenol (1.61 g) and N,N'-dicyclohexylcarbodiimide (2.39 g) were added, and the mixture was stirred for 12 hours. Then, precipitates produced was removed by filtration and the DMF was removed by distillation. The residue was subjected to chromatography on a silica gel column with eluent systems of n-hexane-ethyl acetate (from 200:1 to 50:1) to give the active ester of 14-bromotetradecanoic acid (2.57 g). The active ester (655 mg) was dissolved in DMF (30 ml), and 6-(4'-N-glycyl-spicaminyl-amino)purine hydrochloride (500 mg) and triethylamine (2.0 ml) were added to the solution. The mixture was stirred for 12 hours. After the solvent was removed by distillation, the residue was subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol (from 7:1 to 5:1) to give SPK273 in the yield of 219 mg.

reactant | 12-bromo-1-dodecanol | 5 g | BrCCCCCCCCCCCCO | C12H25BrO
reactant | pyridinium chlorochromate | 10.1 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 12-bromo-1-dodecanal | 3.72 g | BrCCCCCCCCCCCC=O | C12H23BrO
